US04382958
4-[4-(2-Hydroxyethoxy)phenyl]butan-2-one
A mixture of 4-[4-hydroxyphenyl]butan-2-one (16.4 g], 2-bromoethanol (16.9 g), sodium hydroxide (7.5 g), sodium iodide (7.5 g) and water (200 ml) was heated under reflux for 4 hours, cooled and extracted with dichloromethane. The extract was washed with brine, dried (MgSO4) and evaporated to dryness. The residual oil was distilled to give the title compound as a colourless liquid, bp 170°-1°/0.8 mm. P τ(CDCl3) 7.85 (3H, s), 7.15-7.35 (4H, complex), 7.4-7.6 (1H, t), 5.85-6.25 (4H, complex), 2.8-3.4 (4H, dd).

reactant | 4-[4-hydroxyphenyl]butan-2-one | OC1=CC=C(C=C1)CCC(C)=O | C10H12O2
reactant | 2-bromoethanol | 16.9 g | BrCCO | C2H5BrO
reactant | sodium hydroxide | 7.5 g | [OH-].[Na+]
reactant | sodium iodide | 7.5 g | [I-].[Na+]
solvent | water | 200 ml | O | H2O
product | 4-[4-(2-Hydroxyethoxy)phenyl]butan-2-one | OCCOC1=CC=C(C=C1)CCC(C)=O | C12H16O3
